US07790895B2
A flask was charged with 4-bromo-pyridine-3-carbaldehyde (186 mg, 1 mmol), 3-cyanophenelboronic acid (176 mg, 1.2 mmol), tetrakis(triphenylphosphine)palladium(0) (58 mg, 0.05 mmol), potassium phosphate (319 mg, 1.5 mmol) and 1,4-dioxane (10 mL). The reaction mixture was kept at 50° C. overnight. The reaction mixture was then diluted with ethyl acetate and washed with water, then brine. The organic layer was dried over sodium sulfate, concentrated, and the residue purified by flash chromatography to yield 3-(3-formyl-pyridin-4-yl)-benzonitrile as white crystals.

reactant | 4-bromo-pyridine-3-carbaldehyde | 1 mmol, 186 mg | BrC1=C(C=NC=C1)C=O | C6H4BrNO
reactant | potassium phosphate | 1.5 mmol, 319 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(3-formyl-pyridin-4-yl)-benzonitrile | C(=O)C=1C=NC=CC1C=1C=C(C#N)C=CC1 | C13H8N2O
